US08420816B2
(R)-1-(3,3-dimethyl-2-(6-methyl-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoyl)azetidine-3-carbonitrile
(R)-3,3-Dimethyl-2-(6-methyl-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid (10 mg, 0.033 mmol), DMAP (6 mg, 0.05 mmol), 4-methylmorpholine (0.015 mL, 0.13 mmol), EDC hydrochloride (10 mg, 0.050 mmol), HOBt hydrate (8 mg, 0.050 mmol) and azetidine-3-carbonitrile hydrochloride (6 mg, 0.050 mmol) were dissolved in DMF (2 mL). The reaction mixture was stirred under nitrogen at room temperature for 3 h. The solution was concentrated and purified by preparative HPLC (10-30% AcCN/H2O with 0.035% TFA) to give the title compound (1.4 mg, 12%). 1H NMR (500 MHz, CD3OD) δ 1.18 (s, 9H), 2.35 (d, J=8.8 Hz, 3H) 4.17-4.18 (m, 1H), 4.29-4.31 (m, 2H), 4.52-4.62 (m, 1H), 4.64-4.69 (m, 1H), 5.19-5.23 (m, 2H), 5.45 (s, 1H), 7.83 (d, J=16.1 Hz, 3H), 8.19 (s, 1H). [M+H] calc'd for C20H23N5O2, 366; found, 366

reactant | (R)-3,3-Dimethyl-2-(6-methyl-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid | 0.033 mmol, 10 mg | CC([C@H](C(=O)O)N1CC=2C(=CN=C3C2C(C1=O)=CN3)C)(C)C | C16H19N3O3
reactant | 4-methylmorpholine | 0.13 mmol, 0.015 mL | CN1CCOCC1 | C5H11NO
reactant | EDC hydrochloride | 0.050 mmol, 10 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt hydrate | 0.050 mmol, 8 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | azetidine-3-carbonitrile hydrochloride | 0.050 mmol, 6 mg | Cl.N1CC(C1)C#N
catalyst | DMAP | 0.05 mmol, 6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-1-(3,3-dimethyl-2-(6-methyl-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoyl)azetidine-3-carbonitrile | 1.4 mg, 12% | CC([C@H](C(=O)N1CC(C1)C#N)N1CC=2C(=CN=C3C2C(C1=O)=CN3)C)(C)C | C20H23N5O2
